US04077982
A mixture of 5.0 g of 2-benzyloxy-1,3-propanediol, 3.5 g of chloroacetaldehyde dimethyl acetal and 0.3 g of p-toluenesulfonic acid was heated via oil bath through the temperature range 25° to 130° C in a three-necked, round-bottomed flask equipped with stirrer, thermometer and condenser. The by-product methanol, removed by distillation during the course of reaction, amounted to 63% of theory. The reaction mixture was cooled to room temperature and dissolved in ether. The ether solution was washed with 10% sodium carbonate and then with water. After drying over anhydrous sodium sulfate, the ether was removed under reduced pressure. Distillation of the crude oil gave 3.3 g of 5-benzyloxy-2-chloromethyl-1,3-dioxane; b.p. 100°-105° C/0.025 mm Hg; nD25 1.5228. The nmr spectrum was consistent with the assigned structure and showed the cis isomer content to be 30 ± 5%, the remainder being the trans isomer.

reactant | 2-benzyloxy-1,3-propanediol | 5.0 g | C(C1=CC=CC=C1)OC(CO)CO | C10H14O3
reactant | chloroacetaldehyde dimethyl acetal | 3.5 g | COC(CCl)OC | C4H9ClO2
reactant | p-toluenesulfonic acid | 0.3 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 5-benzyloxy-2-chloromethyl-1,3-dioxane | 3.3 g | C(C1=CC=CC=C1)OC1COC(OC1)CCl | C12H15ClO3
